US07151105B2
Step 3: 5,7-Dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-ol
To a solution of 5-amino-2,4-dihydro-3H-1,2,4-triazol-3-one (29 g, 0.29 mol) in glacial acetic acid (140 mL) was added pentane2,4-dione (29 g, 0.29 mol) and the solution was refluxed for 8 hours. The reaction mixture was concentrated under reduced pressure to afford a yellow solid. The solid was filtered and washed with ethanol (200 mL) to give the product (42 g, 80%).

reactant | 5-amino-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.29 mol, 29 g | NC=1NC(NN1)=O | C2H4N4O
reactant | pentane2,4-dione | 0.29 mol, 29 g | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 140 mL | C(C)(=O)O | C2H4O2
product | 5,7-Dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-ol | 42 g, 80% | CC1=NC=2N(C(=C1)C)N=C(N2)O | C7H8N4O
